US08334292B1
Step 3: Preparation of (R)-tert-butyl 3-((2-(cis-4-methylcyclohexylamino)-5-(4-morpholinophenyl)pyrimidin-4-yloxy)methyl)pyrrolidine-1-carboxylate
Using the procedure of Example 1 Step 3, (R)-tert-butyl 3-((2-(cis-4-methylcyclohexylamino)-5-bromopyrimidin-4-yloxy)methyl)pyrrolidine-1-carboxylate with 4-morpholinophenylboronic acid to provide the title compound at 85% yield. 1H NMR (CDCl3, 400 MHz) δ 8.05 (s, 1H), 7.36 (d, 2H), 6.92 (d, 2H), 5.16 (sb, 1H), 4.30-4.27 (m, 2H), 4.10-4.01 (m, 1H), 386-3.84 (m, 4H), 3.60-3.12 (m, 8H); 2.70-2.62 (m, 1H), 2.05-1.98 (m, 1H), 1.81-1.46 (m, 8H), 1.44 (s, 9H), 1.29-1.21 (m, 3H), 0.93 (d, 3H); MS (ESI) m/z: Found: 552.3 (M+1); Calc: 551.4 (M+).

reactant | (R)-tert-butyl 3-((2-(cis-4-methylcyclohexylamino)-5-bromopyrimidin-4-yloxy)methyl)pyrrolidine-1-carboxylate | C[C@H]1CC[C@H](CC1)NC1=NC=C(C(=N1)OC[C@H]1CN(CC1)C(=O)OC(C)(C)C)Br | C21H33BrN4O3
reactant | 4-morpholinophenylboronic acid | O1CCN(CC1)C1=CC=C(C=C1)B(O)O | C10H14BNO3
product | (R)-tert-butyl 3-((2-(cis-4-methylcyclohexylamino)-5-(4-morpholinophenyl)pyrimidin-4-yloxy)methyl)pyrrolidine-1-carboxylate | 85% yield | C[C@H]1CC[C@H](CC1)NC1=NC=C(C(=N1)OC[C@H]1CN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)N1CCOCC1 | C31H45N5O4
